US04870074
Preparation of 2-acetylaminomethyl-4-(4-fluorobenzyl)morpholine
A mixture of 2-acetylaminomethylmorpholine (7.0 g), 4-fluorobenzyl chloride (12 g), potassium carbonate (56 g), potassium iodide (1 g), and methyl ethyl ketone (100 ml) is refluxed with stirring for 17 hours. The reaction mixture is filtered and the filtrate is concentrated under reduced pressure. The residue is diluted with water and extracted with chloroform. The organic layer is separated, washed successively with water and saturated aqueous sodium chloride solution, and dried over magnesium sulfate. The solvent is distilled off under reduced pressure, and the residue is recrystallized from toluene to give the title compound (9.3 g), mp 120°-122° C.

reactant | 2-acetylaminomethylmorpholine | 7.0 g | C(C)(=O)NCC1CNCCO1 | C7H14N2O2
reactant | 4-fluorobenzyl chloride | 12 g | FC1=CC=C(CCl)C=C1 | C7H6ClF
reactant | potassium carbonate | 56 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1 g | [I-].[K+]
solvent | methyl ethyl ketone | 100 ml | C(C)C(=O)C | C4H8O
product | 2-acetylaminomethyl-4-(4-fluorobenzyl)morpholine | 9.3 g | C(C)(=O)NCC1CN(CCO1)CC1=CC=C(C=C1)F | C14H19FN2O2
